US08383833B2
(i) (1S)-1-Methyl-2-oxo-2-tetrahydro-1-H-1-pyrrolylethyl N-(p-methoxyphenyl)-2-amino-3-cyclopropylpropanoate
To (1S)-1-methyl-2-oxo-2-tetrahydro-1-H-1-pyrrolylethyl 2-bromo-3-cyclopropylpropanoate (418 mg, 1.3 mmol), NaI (198 mg, 1.3 mmol), triethylamine (214 g, 2.1 mmol) and tetrahydrofuran (5 mL) were added. To the solution, p-methoxyaniline (211 mg, 1.7 mmol) and tetrahydrofuran (3 mL) were added. The mixture was stirred at room temperature for 24 hours and further at 40° C. for 20 hours. To the mixture, a saturated sodium sulfite aqueous solution and ethyl acetate were added for extraction. The obtained extract was dried with anhydrous magnesium sulfate, and the solvent was removed away under reduced pressure. The residue was purified with silica gel chromatography to obtain 270 mg of the target compound (yield: 57%, The diastereo ratio calculated by NMR analysis was 92:8.).

reactant | (1S)-1-methyl-2-oxo-2-tetrahydro-1-H-1-pyrrolylethyl 2-bromo-3-cyclopropylpropanoate | 1.3 mmol, 418 mg | BrC(C(=O)O[C@H](C(N1CCCC1)=O)C)CC1CC1 | C13H20BrNO3
reactant | NaI | 1.3 mmol, 198 mg | [Na+].[I-]
reactant | triethylamine | 2.1 mmol, 214 g | C(C)N(CC)CC | C6H15N
reactant | p-methoxyaniline | 1.7 mmol, 211 mg | COC1=CC=C(N)C=C1 | C7H9NO
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (1S)-1-Methyl-2-oxo-2-tetrahydro-1-H-1-pyrrolylethyl N-(p-methoxyphenyl)-2-amino-3-cyclopropylpropanoate | 270 mg, yield: 57% | COC1=CC=C(C=C1)NC(C(=O)O[C@H](C(N1CCCC1)=O)C)CC1CC1 | C20H28N2O4
